US07750000B2
Stage B: [3-(2-methoxypyridin-4-yl)imidazo[1,2-b]pyridazin-6-yl]piperidin-4-ylamine (Example 6.0)
280 mg (0.66 mmol) of 4-[3-(2-methoxypyridin-4-yl)imidazo[1,2-b]pyridazin-6-ylamino]piperidine-1-carboxylic acid tert-butyl ester were introduced into 3 ml of THF and, after addition of 0.8 ml of HCl in dioxane (4M), stirred at RT overnight. HCl (conc.) was added, and the mixture was heated at 70° C. for 4 hours. The reaction was diluted with water, adjusted to pH 11 with Et3N and extracted three times with ethyl acetate. The combined organic phases were filtered through a silicone filter (from Whatman) and concentrated. In the final fractionation by chromatography on silica gel, 92 mg of the desired product were isolated.

reactant | 4-[3-(2-methoxypyridin-4-yl)imidazo[1,2-b]pyridazin-6-ylamino]piperidine-1-carboxylic acid tert-butyl ester | 0.66 mmol, 280 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=CC=2N(N1)C(=CN2)C2=CC(=NC=C2)OC | C22H28N6O3
reactant | THF | 3 ml | C1CCOC1 | C4H8O
reactant | HCl | 0.8 ml | Cl | ClH
reactant | Et3N | CCN(CC)CC | C6H15N
solvent | dioxane | 4M | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | [3-(2-methoxypyridin-4-yl)imidazo[1,2-b]pyridazin-6-yl]piperidin-4-ylamine | 92 mg | COC1=NC=CC(=C1)C1=CN=C2N1N=C(C=C2)NC2CCNCC2 | C17H20N6O
